US06872730B2
1N NaOH (4 ml) was added to a solution ethyl 3-(6-{2-[6-(methylamino)-2-pyridyl]ethoxy}benzo[b]furan-3-yl)propanoate in THF (4 ml) and stirred for 16 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was neutralized with 1N HCl (pH=6.5). The resulting precipitate was filtered, rinsed with distilled water, and dried to yield 70 mg (74%) of 3-(6-{2-[6-(Methylamino)-2-pyridyl]ethoxy}benzo[b]furan-3-yl)propanoic acid as a white solid. NMR 1H DMSO-d6 δ: 7.54 (dd, 1H, J=7.3, 8.6 Hz), 7.34 (m, 2H), 6.99 (d, 1H, J=2.0 Hz), 6.77 (dd, 1H, J=2.0, 8.6 Hz), 6.53 (d, 1H, J=7.1 Hz), 6.37 (d, 1H, J=7.1 Hz), 6.27 (d, 1H, J=8.5 Hz), 4.19 (t, 2H, J=6.5 Hz), 3.09 (t, 2H, J=6.5 Hz), 2.94 m, 2H), 2.87 (s, 3H), 2.69 (t, 2H, J=6.5 Hz). Mass Spectrum (LCMS, ESI) calculate for C19H21N2O4 341.1 (M+H) found: 341.4.

reactant | NaOH | 1N, 4 ml | [OH-].[Na+]
reactant | ethyl 3-(6-{2-[6-(methylamino)-2-pyridyl]ethoxy}benzo[b]furan-3-yl)propanoate | CNC1=CC=CC(=N1)CCOC=1C=CC2=C(OC=C2CCC(=O)OCC)C1 | C21H24N2O4
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 3-(6-{2-[6-(Methylamino)-2-pyridyl]ethoxy}benzo[b]furan-3-yl)propanoic acid | 70 mg, 74% | CNC1=CC=CC(=N1)CCOC=1C=CC2=C(OC=C2CCC(=O)O)C1 | C19H20N2O4
